US07615642B2
1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-propyl-1H-pyrazole-4-carboxamide
Following the same procedure in Example 53, Step A, using n-propylamine (8 mg, 0.13 mmol), HATU (37 mg, 0.09 mmol), DIPEA (0.02 mL, 0.10 mmol) and 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid (40 mg, 0.09 mmol) in DMF (5 mL). The crude product was purified by MPLC on silica gel using EtOAc/DCM (1:1) to provide the title compound as a white solid. The product was converted to its TFA salt. Yield: 32 mg (59%); 1H NMR (400 MHz, CD3OD) δ 0.93 (t, J=7.52 Hz, 3 H), 1.43-1.52 (m, 2 H), 1.52-1.62 (m, 4 H), 1.64 (s, 9 H), 2.25-2.37 (m, 1 H), 3.28-3.36 (m, 4 H), 3.91 (dd, J=11.43, 3.22 Hz, 2 H), 4.48 (d, J=7.62 Hz, 2 H), 7.99-8.11 (m, 3 H), 8.39 (d, J=1.37 Hz, 1 H), 8.77 (s, 1 H); MS (ESI) (M+H)+=487.8; Anal. Calcd for C24H33N5O4S+1.7 TFA+1.8H2O: C, 46.10; H, 5.41; N, 9.81. Found: C, 46.15; H, 5.56; N, 9.48.

reactant | n-propylamine | 0.13 mmol, 8 mg | C(CC)N | C3H9N
reactant | HATU | 0.09 mmol, 37 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.02 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-{[2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-1H-pyrazole-4-carboxylic acid | 0.09 mmol, 40 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)O | C21H26N4O5S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-{[2-tert-Butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazol-5-yl]sulfonyl}-N-propyl-1H-pyrazole-4-carboxamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N2N=CC(=C2)C(=O)NCCC | C24H33N5O4S
